US06300342B1
(b) 1-[3-(4-cyano-phenyl)-propionyl]-6-phenylaminosulphonyl-1,2,3,4-tetrahydro-quinoline
2.33 g (6 mmol) of crude 1-[3-(4-cyano-phenyl)-propionyl]-1,2,3,4-tetrahydro-quinoline-6-sulphonylchloride are added dropwise, whilst cooling with ice, to a solution of 0.56 g of aniline in 15 ml of pyridine. Then the mixture is heated for 30 minutes to 100° C. and evaporated to dryness. The residue is chromatographed over a silica gel column with methylene chloride:ethyl acetate.

reactant | 1-[3-(4-cyano-phenyl)-propionyl]-1,2,3,4-tetrahydro-quinoline-6-sulphonylchloride | 6 mmol, 2.33 g | C(#N)C1=CC=C(C=C1)CCC(=O)N1CCCC2=CC(=CC=C12)S(=O)(=O)Cl | C19H17ClN2O3S
reactant | aniline | 0.56 g | NC1=CC=CC=C1 | C6H7N
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 1-[3-(4-cyano-phenyl)-propionyl]-6-phenylaminosulphonyl-1,2,3,4-tetrahydro-quinoline | C(#N)C1=CC=C(C=C1)CCC(=O)N1CCCC2=CC(=CC=C12)S(=O)(=O)NC1=CC=CC=C1 | C25H23N3O3S
